US07420001B2
A solution of 2,6-dihydroxyacetophenone (35.37 g, 0.23 moles), potassium carbonate (51.4 g, 0.37 moles), and t-butyl bromoacetate (28.4 mL, 0.23 moles) in 440 mL of acetone was heated at reflux for 1.5 hours. It was then cooled to room temperature and filtered. The filter cake was washed with acetone and the combined mother liquors were concentrated in vacuo. (2-Acetyl-3-hydroxy-phenoxy)-acetic acid tert-butyl ester was isolated as thick yellow oil, which was used directly used for the next step.

reactant | 2,6-dihydroxyacetophenone | 0.23 moles, 35.37 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | potassium carbonate | 0.37 moles, 51.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 0.23 moles, 28.4 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetone | 440 mL | CC(=O)C | C3H6O
product | (2-Acetyl-3-hydroxy-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C(=CC=C1)O)C(C)=O)=O | C14H18O5
